US03989707
A mixture of 5.3 parts of 5-chloro-1,3-dihydro-1-(3-methyl-4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 30 minutes with water-separator. After cooling, there are added 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)butane and stirring at reflux temperature is continued for 18 hours. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. Methylbenzene is added to the oily residue and the whole is acidified with a diluted hydrochloric acid solution. After shaking thoroughly, the methylbenzene-phase is decanted and discarded. The aqueous acid phase, together with the residual oil, is alkalized with ammonium hydroxide and the product is extracted again with methylbenzene. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and a small amount of 2-propanol, yielding 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-3-methyl-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 141.7° C.

reactant | 5-chloro-1,3-dihydro-1-(3-methyl-4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2C(CNCC2)C)C=C1 | C13H16ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 1-chloro-4,4-bis(4-fluorophenyl)butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]-3-methyl-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2C(CN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C)C=C1 | C29H30ClF2N3O
